US06921821B2
4-(1-Benzo{1,3}dioxol-5-ylmethyl-piperidin-4-ylamino)-6-ethyl-chromen-2-one (II-63)
Prepared from 6-Ethyl-4-(piperidin-4-ylamino)-chromen-2-one and piperonal in a manner analogous to that described above. 1H NMR (300 MHz, MeOD-d4) δ ppm 1.28 (t, J=7.63 Hz, 3H) 1.92 (m, 2H) 2.34 (m, 2H) 2.74 (q, J=7.46 Hz, 2H) 3.22 (m, 2H) 3.60 (m, 2H) 3.86 (m, 1H) 4.26 (s, 2H) 5.40 (s, 1H) 6.04 (s, 2H) 6.94 (m, 2H) 7.01 (m, 2H) 7.25 (m, 1H) 7.48 (m, 1H) 7.86 (s, 1H); MS (DCI/NH3) m/z 407 [M+H]+.

reactant | 6-Ethyl-4-(piperidin-4-ylamino)-chromen-2-one | C(C)C=1C=C2C(=CC(OC2=CC1)=O)NC1CCNCC1 | C16H20N2O2
reactant | piperonal | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | NH3 | N | H3N
product | 4-(1-Benzo{1,3}dioxol-5-ylmethyl-piperidin-4-ylamino)-6-ethyl-chromen-2-one | O1COC2=C1C=CC(=C2)CN2CCC(CC2)NC2=CC(OC1=CC=C(C=C21)CC)=O | C24H26N2O4
